US08754053B2
4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid (IIa)
210 mg of 3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole (IIIa) was dissolved in 20 ml of dry THF, cooled to −90° C. and treated with 0.625 ml BuLi 1.6M in hexane. The mixture was stirred for 1 hour at −80° C. and then a great excess of solid CO2 was added to the mixture. The temperature was allowed to rise up to −30° C. (1 hour) and 5 ml of 1M HCl was added followed with ether. The organic layer was dried and evaporated to dryness. The residual resin was used in the final step without purification.

reactant | 3-(4-Bromo-3-methyl-phenyl)-5-(3,5-dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazole | 210 mg | BrC1=C(C=C(C=C1)C=1N(OC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)C | C18H13BrCl2F3NO
reactant | BuLi | 1.6M, 0.625 ml | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | 1M, 5 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 4-[5-(3,5-Dichloro-phenyl)-2-methyl-5-trifluoromethyl-2,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid | ClC=1C=C(C=C(C1)Cl)C1(C=C(N(O1)C)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H14Cl2F3NO3
